US05376680
Using an analogous procedure to that described in Example 1, tetrahydropyran-4-one oxime was reacted with 4-{3-[4-(1-chloroethyl)phenylthio]-5-fluorophenyl}-4-methoxytetrahydropyran to give tetrahydropyran-4-one O-{4-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]-α-methylbenzyl}oxime as an oil in 74% yield.

reactant | tetrahydropyran-4-one oxime | O1CCC(CC1)=NO | C5H9NO2
reactant | 4-{3-[4-(1-chloroethyl)phenylthio]-5-fluorophenyl}-4-methoxytetrahydropyran | ClC(C)C1=CC=C(C=C1)SC=1C=C(C=C(C1)F)C1(CCOCC1)OC | C20H22ClFO2S
product | tetrahydropyran-4-one O-{4-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]-α-methylbenzyl}oxime | 74% yield | FC=1C=C(C=C(C1)SC1=CC=C(C(C)ON=C2CCOCC2)C=C1)C1(CCOCC1)OC | C25H30FNO4S
